US05459148
4-(1-Hydroxy-2,2-dimethylpropyl)-1-[(2'-oxalobiphenyl-4-yl)methyl]-2-propylimidazole-5-carboxamide.
Following a procedure similar to that described in Example 10(a), but using 170 mg of 4-(1-hydroxy-2,2-dimethylpropyl)-2-propylimidazole-5-carbonitrile, 307 mg of methyl (4'-bromomethylbiphenyl-2-yl)glyoxylate (prepared as described in Preparation 8) and 106 mg of potassium carbonate, 257 mg of the title compound were obtained as crystals, melting at 128°-130° C.

reactant | 4-(1-hydroxy-2,2-dimethylpropyl)-2-propylimidazole-5-carbonitrile | 170 mg | OC(C(C)(C)C)C=1N=C(NC1C#N)CCC | C12H19N3O
reactant | methyl (4'-bromomethylbiphenyl-2-yl)glyoxylate | 307 mg | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(C(=O)OC)=O | C16H13BrO3
reactant | potassium carbonate | 106 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(1-Hydroxy-2,2-dimethylpropyl)-1-[(2'-oxalobiphenyl-4-yl)methyl]-2-propylimidazole-5-carboxamide | 257 mg | OC(C(C)(C)C)C=1N=C(N(C1C(=O)N)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)C(=O)O)CCC | C27H31N3O5
